US08383635B2
5-[(E)-2-(dimethylamino)ethenyl]-7-(methylthio)-1-[4-(methylthio)phenyl]-pyrimido[4,5-d]pyrimidin-4(1H)-one
To a solution of 4-methyl-2-(methylthio)-6-{[4-(methylthio)phenyl]amino}-5-pyrimidinecarboxamide benzamide (0.50 g, 1.57 mmol) in DMF (20 ml) was added dimethylormamide-dimethylacetal (0.56 g, 4.7 mmol), and the reaction mixture was stirred at 85° for 1.5 h. It was cooled to room temperature and DMF was removed under vacuum. The residue was chromatographed (silica gel, eluting with hexane to ethyl acetate gradient followed by 10% methanol in methylene chloride) to yield the product (0.43 g, 72% yield).

reactant | 4-methyl-2-(methylthio)-6-{[4-(methylthio)phenyl]amino}-5-pyrimidinecarboxamide benzamide | 1.57 mmol, 0.50 g | C(C1=CC=CC=C1)(=O)N.CC1=NC(=NC(=C1C(=O)N)NC1=CC=C(C=C1)SC)SC
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-[(E)-2-(dimethylamino)ethenyl]-7-(methylthio)-1-[4-(methylthio)phenyl]-pyrimido[4,5-d]pyrimidin-4(1H)-one | 0.43 g, 72% yield | CN(/C=C/C1=C2C(=NC(=N1)SC)N(C=NC2=O)C2=CC=C(C=C2)SC)C | C18H19N5OS2
